US07199147B2
A mixture of 2-{cis-4-[(4-methyl-1-tetrahydro-2H-pyran-2-yl-1H-indazol-5-yl)oxy]cyclohexyl}-1H-isoindole-1,3(2H)-dione (95.5 mg, 0.208 mmol) and a 30% methylamine-ethanol solution (5.0 ml) was stirred with heating under reflux for 2 hours. The reaction solution was allowed to cool, and then was concentrated under reduced pressure to obtain a crude product. The crude product was purified by a silica gel column chromatography (eluent: chloroform/methanol/28% aqueous ammonia) to obtain cis-4-[(4-methyl-1-tetrahydro-2H-pyran-2-yl-1H-indazol-5-yl)oxy]cyclohexanamine (60.4 mg, 88%).

reactant | 2-{cis-4-[(4-methyl-1-tetrahydro-2H-pyran-2-yl-1H-indazol-5-yl)oxy]cyclohexyl}-1H-isoindole-1,3(2H)-dione | 0.208 mmol, 95.5 mg | CC1=C2C=NN(C2=CC=C1O[C@H]1CC[C@H](CC1)N1C(C2=CC=CC=C2C1=O)=O)C1OCCCC1 | C27H29N3O4
reactant | methylamine ethanol | 5.0 ml | CN.C(C)O
product | cis-4-[(4-methyl-1-tetrahydro-2H-pyran-2-yl-1H-indazol-5-yl)oxy]cyclohexanamine | 60.4 mg, 88% | CC1=C2C=NN(C2=CC=C1O[C@H]1CC[C@H](CC1)N)C1OCCCC1 | C19H27N3O2
